US09255110B2
To a solution of 3-chloro-4-nitro-N-phenyl-benzamide (0.13 g, 0.47 mmol) in N,N-dimethylformamide (10 mL) were added piperidin-4-ylmethyl-carbamic acid tert-butyl ester (0.12 g, 0.56 mmol) and potassium carbonate (0.1 g, 0.72 mmol) and the resulting mixture was heated at 50° C. overnight. The reaction mixture was then heated at 80° C. for 8 hours; then more piperidin-4-ylmethyl-carbamic acid tert-butyl ester (0.33 mmol) and potassium carbonate (0.14 g, 1 mmol) were added and the resulting mixture was heated at 85° C. overnight. The reaction mixture was partitioned between water and ethyl acetate, the organic layer was separated and the aqueous layer was extracted twice with ethyl acetate. The combined organic extracts were washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified on a silica gel plug (hexane/EtOAc, 20/80 to 40/60) to give 0.13 g, (61% yield) of [1-(2-nitro-5-phenylcarbamoyl-phenyl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester as on orange colored solid.

reactant | 3-chloro-4-nitro-N-phenyl-benzamide | 0.47 mmol, 0.13 g | ClC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1[N+](=O)[O-] | C13H9ClN2O3
reactant | piperidin-4-ylmethyl-carbamic acid tert-butyl ester | 0.56 mmol, 0.12 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | potassium carbonate | 0.72 mmol, 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidin-4-ylmethyl-carbamic acid tert-butyl ester | 0.33 mmol | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | potassium carbonate | 1 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | [1-(2-nitro-5-phenylcarbamoyl-phenyl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester | 61% yield | C(C)(C)(C)OC(NCC1CCN(CC1)C1=C(C=CC(=C1)C(NC1=CC=CC=C1)=O)[N+](=O)[O-])=O | C24H30N4O5
